US05057604
Immunoprecipitation and SDS-PAGE Analysis
For cell-surface labelling, 30-100×106PMN were iodinated by chloroglycoluril [Markwell and Fox, Biochemistry 17, 4807-4817 (1978)] in the presence of 25 μM p-nitrophenyl p'-guanidino-benzoate (NPGB) and 0.5% NaN3 for 30 min at 0° C. Cells were solubilized in HEPES buffer containing 200 mM octylglucoside, 20 mM iodoacetamine, 2 μM pepstatin, 2 μM leupeptin, 25 μM NPGB, 1 mM CaCl2, and 1 mM MgCl2, pH 7.4. Total placental membrane proteins were labelled with 125I using chloroglycoluril after detergent solubilization. Protein-bound and free iodide were separated on Sephadex G-25 columns. Aliquots of labelled proteins were incubated with monoclonal or polyclonal antibodies for 2 hours (h) at 4° C. and then for a further 1 h with either anti-mouse Ig Sepharose (Cooper Biomedical, Malvern, Pa.) or Protein A Sepharose (Pharmacia, Piscataway, N.J.), respectively. Immunoprecipitates were analyzed on 6% SDS-polyacrylamide gels and autoradiography performed as described by Maizel, Meth. Virol. 5, 179-246 (1971).

reactant | NaN3 | [N-]=[N+]=[N-].[Na+]
reactant | octylglucoside | 200 mM | CCCCCCCCOC1[C@@H]([C@H]([C@@H]([C@H](O1)CO)O)O)O | C14H28O6
reactant | pepstatin | 2 μM | C[C@@H](C(=O)N[C@@H](CC(C)C)[C@H](CC(=O)O)O)NC(=O)C[C@@H]([C@H](CC(C)C)NC(=O)[C@H](C(C)C)NC(=O)[C@H](C(C)C)NC(=O)CC(C)C)O | C34H63N5O9
reactant | leupeptin | 2 μM | CC(C)C[C@@H](C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCN=C(N)N)C(=O)O)NC(=O)C | C20H38N6O5
reactant | CaCl2 | 1 mM | [Cl-].[Cl-].[Ca+2]
reactant | MgCl2 | 1 mM | [Mg+2].[Cl-].[Cl-]
reactant | HEPES | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
product | SDS | CCCCCCCCCCCCOS(=O)(=O)[O-].[Na+] | InChI=1S/C12H26O4S.Na/c1-2-3-4-5-6-7-8-9-10-11-12-16-17(13,14)15;/h2-12H2,1H3,(H,13,14,15);/q;+1/p-1
